US06365747B1
To a stirred solution of 4,4-dimethyl-2-[1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydroisobenzofuran-5-yl]oxazoline (287 g, 0.724 mol) in pyridine (1000 ml), at 5° C., phosphorous oxychloride (135 ml, 1.474 mol) is slowly added while keeping the temperature at 5 to 10° C. The mixture is heated at reflux (115-116° C.) for 3 to 4 hours. The mixture is cooled to about 10° C. and treated with deionized water (3200 mL), and the pH is adjusted to about pH 9 by addition of 28% aqueous ammonia (800 ml). The product is extracted with of toluene (1500+1000+500+500 ml) and the combined organic phases are decoloured with charcoal. The organic phase is concentrated under reduced pressure at 60-70° C. to give an oily residue to which acetone (3000 ml) is added. The acetone solution is cooled to 10° C. and treated with 60 ml 48% HBr to a pH value of 4-5. The solvent is evaporated under reduced pressure and the residue is taken up in acetone (800 ml). The mixture is heated to 40-50° C. and thereafter cooled to 5° C. After 15 hours at 5° C. the product is filtered off, washed with cold acetone (500 ml) and dried in vacuo at 50° C. 175-180 g of citalopram hydrobromide with a purity (HPLC, peak area)≧90% is obtained.

reactant | 4,4-dimethyl-2-[1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydroisobenzofuran-5-yl]oxazoline | 0.724 mol, 287 g | CC1(N=C(OC1)C=1C=C2COC(C2=CC1)(C1=CC=C(C=C1)F)CCCN(C)C)C | C24H29FN2O2
reactant | phosphorous oxychloride | 1.474 mol, 135 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | 800 ml | N | H3N
reactant | HBr | 60 ml | Br | BrH
solvent | pyridine | 1000 ml | N1=CC=CC=C1 | C5H5N
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 3200 mL | O | H2O
product | citalopram hydrobromide | 175-180 g | CN(C)CCCC1(C=2C=CC(=CC2CO1)C#N)C=3C=CC(=CC3)F.Br | InChI=1S/C20H21FN2O.BrH/c1-23(2)11-3-10-20(17-5-7-18(21)8-6-17)19-9-4-15(13-22)12-16(19)14-24-20;/h4-9,12H,3,10-11,14H2,1-2H3;1H
